US09382188B2
E) 6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidine-4-carbonitrile
Under a nitrogen atmosphere, to a solution of (((tert-butyldiphenylsilyl)oxy)methyl)-6-chloropyrimidine (18.6 g) and 1,4-diazabicyclo[2.2.2]octane (8.18 g) in acetonitrile (97 mL) was added tetraethylammonium cyanide (7.59 g) at room temperature, and the mixture was stirred at 50° C. for 30 min. The solvent of the reaction mixture was evaporated under reduced pressure and the insoluble solid was removed by filtration. The solvent of the filtrate was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (11.3 g) as a colorless oil.

reactant | (((tert-butyldiphenylsilyl)oxy)methyl)-6-chloropyrimidine | 18.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=NC(=CC=N1)Cl | C21H23ClN2OSi
reactant | 1,4-diazabicyclo[2.2.2]octane | 8.18 g | N12CCN(CC1)CC2 | C6H12N2
reactant | acetonitrile | 97 mL | C(C)#N | C2H3N
catalyst | tetraethylammonium cyanide | 7.59 g | [C-]#N.C(C)[N+](CC)(CC)CC
product | 6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidine-4-carbonitrile | 11.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C#N | C22H23N3OSi
